US06872836B2
The crude (R)-3-(benzyloxycarbonylamino)-N-hydroxy-pyrrolidine obtained above (1.4 g) was dissolved in ethanol (10 ml). Raney nickel (about 2 g) was added to this mixture. The reaction was degassed under reduced pressure and hydrogen supply (three times) and subsequently put under hydrogen atmosphere (1 bar). The reaction was over after 6 hours, yielding crude (R)-3-(benzyloxycarbonylamino)-pyrrolidine which was further processed in situ, in that di-tert-butyl dicarbonate (1.0 g, 4.58 mmol) was added; the mixture was stirred for one hour. The solvent was removed and the residue taken up in an n-hexane/AcOEt mixture (1:1, 20 ml) and filtered through a silicagel pad. The silica was washed with n-hexane/AcOEt mixture (1:1; 250 ml). The organic phases were evaporated. The compound was obtained as a colorless oil (1.125 g; yield 81%) in good purity, i.e. at least 90-95%, rendering the compound sufficiently pure for further reaction, e.g. in Example 3.

reactant | (R)-3-(benzyloxycarbonylamino)-N-hydroxy-pyrrolidine | C(C1=CC=CC=C1)OC(=O)N[C@H]1CN(CC1)O | C12H16N2O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Raney nickel | about 2 g | [Ni] | Ni
product | (R)-3-(benzyloxycarbonylamino)-pyrrolidine | yield 81% | C(C1=CC=CC=C1)OC(=O)N[C@H]1CNCC1 | C12H16N2O2
